US04895947
In 50 ml of methanol was suspended 22 g of nicotinic acid hydrazide. To the suspension was added dropwise 13.2 ml of crotonaldehyde, followed by stirring for 30 minutes at room temperature. Methanol was distilled away under reduced pressure, and the residue washed with ether, filtered off, and dried. Thus there was obtained 27.5 g of crotonaldehyde nicotinoyl hydrazone (mp. 144°-145° C.).

reactant | nicotinic acid hydrazide | 22 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | crotonaldehyde | 13.2 ml | C(\C=C\C)=O | C4H6O
solvent | methanol | 50 ml | CO | CH4O
product | crotonaldehyde nicotinoyl hydrazone | 27.5 g | C(C1=CN=CC=C1)(=O)NN=C\C=C\C | C10H11N3O
